US09193720B2
A mixture of (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-(3-(4-fluorophenyl)propoxy)phenyl)-2,6-dimethylpyridin-3-yl)acetate (0.031 g, 0.051 mmol) and LiOH (0.012 g, 0.513 mmol) in 9:1 EtOH/H2O (2 mL) was refluxed for 4 h. Then, cooled and purified by prep-HPLC to afford (S)-2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-(3-(4-fluorophenyl)propoxy)phenyl)-2,6-dimethylpyridin-3-yl)acetic acid (0.0254 g, 0.044 mmol, 86% yield) as solid. 1H NMR (500 MHz, CDCl3) δ 7.18-7.22 (m, 2H), 7.13-7.17 (m, 1H), 7.04-7.08 (m, 1H), 6.95-7.03 (m, 4H), 5.95 (br. s., 1H), 3.98-4.07 (m, 2H), 3.43-3.78 (m, 1H), 2.87-3.06 (m, 1H), 2.84 (t, J=7.7 Hz, 2H), 2.67 (s, 3H), 2.36 (br. s., 1H), 2.24 (s, 3H), 2.10-2.18 (m, 2H), 1.93-2.09 (m, 1H), 1.48-1.68 (m, 1H), 1.28-1.40 (m, 2H), 1.25 (s, 9H), 1.10-1.22 (m, 1H), 0.88 (br.s., 3H), 0.69 (br.s., 3H). LCMS (M+H)=577.3.

reactant | (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-(3-(4-fluorophenyl)propoxy)phenyl)-2,6-dimethylpyridin-3-yl)acetate | 0.051 mmol, 0.031 g | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC(=C(C1N1CCC(CC1)(C)C)C1=CC=C(C=C1)OCCCC1=CC=C(C=C1)F)C)C | C37H49FN2O4
reactant | LiOH | 0.513 mmol, 0.012 g | [Li+].[OH-]
solvent | EtOH H2O | 2 mL | CCO.O
product | (S)-2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-(3-(4-fluorophenyl)propoxy)phenyl)-2,6-dimethylpyridin-3-yl)acetic acid | 0.044 mmol, 0.0254 g, 86% yield | C(C)(C)(C)O[C@H](C(=O)O)C=1C(=NC(=C(C1N1CCC(CC1)(C)C)C1=CC=C(C=C1)OCCCC1=CC=C(C=C1)F)C)C | C35H45FN2O4
